US06770646B2
5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)thieno[2,3-d]pyridazin-4(5H)-one
Triethylsilane (0.3 ml) was added to a solution of 2-[1-hydroxy-1-(1-naphthalenyl)methyl]-5-methyl-7-(2-methylpropyl)thieno[2,3-d]pyridazin-4(5H)-one (0.3 g) prepared as described in Example 6 above and trifluoroacetic acid (2 ml) in dichloromethane (10 ml). After 30 minutes, the reaction mixture was evaporated and the residue remaining was dissolved in ethyl acetate. The ethyl acetate solution was washed twice with saturated sodium hydrogen carbonate solution and once with brine, and then dried and evaporated. Purification by chromatography eluting with iso-hexane/ethyl acetate (4:1 to 2:1), and subsequent HPLC eluting with isohexane:ethyl acetate (2:1) gave the title compound (0.25 g).

reactant | Triethylsilane | 0.3 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-[1-hydroxy-1-(1-naphthalenyl)methyl]-5-methyl-7-(2-methylpropyl)thieno[2,3-d]pyridazin-4(5H)-one | 0.3 g | OC(C1=CC=CC2=CC=CC=C12)C1=CC2=C(C(=NN(C2=O)C)CC(C)C)S1 | C22H22N2O2S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)thieno[2,3-d]pyridazin-4(5H)-one | 0.25 g | CN1N=C(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C | C22H22N2OS
